US05247076
17-Ethyl-1,14-dihydroxy-12-[2'-(4"-(3'"-dioxolanylphenyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a stirred solution of tri(3-dioxolanylphenyl)bismuthine (300 mg., 0.46 mmol., 1.44 eq.) in methylene chloride (4 ml.) was added peracetic acid (0.100 ml., 32% in acetic acid) followed in 15 minutes by 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (250 mg, 0.32 mmol, leq) and Cu(OAc)2 (25 mg, 0.138 mmol, 0.43 eq). The reaction mixture was stirred at room temperature for 2 days. The mixture was then diluted with saturated aqueous sodium bicarbonate and extracted (2×methylene chloride). The extracts were combined, dried over anhydrus sodium sulfate, filtered, and concentrated in vacuo. The product was isolated and purified by preparative tlc on silica gel (3:1, hexane/acetone) to give the desired product (105 mg).

reactant | tri(3-dioxolanylphenyl)bismuthine | 0.46 mmol, 300 mg, 1.44 eq. | O1C(OCC1)C=1C=C(C=CC1)[Bi](C1=CC(=CC=C1)C1OCCO1)C1=CC(=CC=C1)C1OCCO1
reactant | peracetic acid | 0.100 ml | C(C)(=O)OO | C2H4O3
reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.32 mmol, 250 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO12
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | Cu(OAc)2 | 0.138 mmol, 25 mg, 0.43 eq | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 17-Ethyl-1,14-dihydroxy-12-[2'-(4"-(3'"-dioxolanylphenyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 105 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC2=CC(=CC=C2)C2OCCO2)OC)C)C)O)=O | C52H77NO14
